US05705517
Ethyl 1-[(2'-cyanobiphenyl-4-yl)methyl]-2-mercaptobenzimidazole-7-carboxylate
A mixture of ethyl 3-amino-2-[(2'-cyanobiphenyl-4-yl)methyl]aminobenzoate (5.6 g) and sodium O-ethyl dithiocarbonate (7.3 g) in ethanol (50 ml) was heated for 8 hours under reflux. The reaction mixture was concentrated and the residue was dissolved in water. The solution was adjusted to pH 3-4 with hydrochloric acid. Precipitating crystals were collected by filtration, followed by recrystallization from ethanol to afford yellow crystals (5.0 g, 80%), m.p. 225°-227° C.

reactant | ethyl 3-amino-2-[(2'-cyanobiphenyl-4-yl)methyl]aminobenzoate | 5.6 g | NC=1C(=C(C(=O)OCC)C=CC1)NCC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C23H21N3O2
reactant | sodium O-ethyl dithiocarbonate | 7.3 g | C([S-])(OCC)=S.[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | Ethyl 1-[(2'-cyanobiphenyl-4-yl)methyl]-2-mercaptobenzimidazole-7-carboxylate | 5.0 g, 80% | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC2=C1C(=CC=C2)C(=O)OCC)S | C24H19N3O2S
